US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (100 mg, 0.574 mmol), 1-aminocyclobutanecarboxamide hydrochloride (108 mg, 0.717 mmol) and DIEA (0.350 mL, 2.01 mmol) in DMF (4 mL) was stirred at room temperature for 70 h. Water and EtOAc were added. Organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give 1-(6-chloro-5-cyanopyrazin-2-ylamino)cyclobutanecarboxamide (22 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.574 mmol, 100 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | 1-aminocyclobutanecarboxamide hydrochloride | 0.717 mmol, 108 mg | Cl.NC1(CCC1)C(=O)N
reactant | DIEA | 2.01 mmol, 0.350 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(6-chloro-5-cyanopyrazin-2-ylamino)cyclobutanecarboxamide | 22 mg | ClC1=C(N=CC(=N1)NC1(CCC1)C(=O)N)C#N | C10H10ClN5O
